US05514691
2, 5-Dimethyl-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 2,5-dimethylbenzenesulfonyl chloride according to the procedures described in Example 1b. The crude product was purified by recrystallization from ethyl acetate/hexanes to give off-white crystals, m.p. 102°-104° C., yield 81%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 2,5-dimethylbenzenesulfonyl chloride | CC1=C(C=C(C=C1)C)S(=O)(=O)Cl | C8H9ClO2S
product | 2, 5-Dimethyl-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | yield 81% | CC1=C(C=C(C=C1)C)S(=O)(=O)NC1=C(C(=NO1)C)Br | C12H13BrN2O3S
